US07579473B2
Cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinazolin-4-yloxy)-phenyl]-amide (4-fluoro-phenyl)-amide (325 mg, 0.64 mmol), 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester (193 mg, 0.66 mmol), K2CO3 (181 mg, 1.31 mmol) were combined in DMF (5 ml) and heated to 80° C. overnight. The reaction was not complete and more 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester (90 mg, 0.31 mmol) and K2CO3 (90 mg, 0.65 mmol) were added and heating at 80° C. continued for another night. The reaction mixture was allowed to cool to room temperature, then diluted with EtOAc and washed with H2O (3×), sat'd NaCl (1×), dried (Na2SO4) and concentrated in vacuo. The resulting crude material was purified by flash chromatography (1:1 hexanes:EtOAc, followed by 1:3 hexanes:EtOAc) to give 4-[4-(2-fluoro-4-{[1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl]-amino}-phenoxy)-6-methoxy-quinazolin-7-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (273 mg, 60%). LC/MS Calcd for [M+H]+ 704.3, found 704.4.

reactant | Cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinazolin-4-yloxy)-phenyl]-amide (4-fluoro-phenyl)-amide | 0.64 mmol, 325 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)F | C26H20F2N4O5
reactant | 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.66 mmol, 193 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | K2CO3 | 1.31 mmol, 181 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.31 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | K2CO3 | 0.65 mmol, 90 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-(2-fluoro-4-{[1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarbonyl]-amino}-phenoxy)-6-methoxy-quinazolin-7-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 273 mg, 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)OC | C37H39F2N5O7
